US07307167B2
9-Acetyl-2-amino-6-chloropurine (0.50 g, 2.36 mmol), tetraethylammonium chloride (0.025 g, 0.15 mmol) and isoamyl nitrite (0.42 g, 3.54 mmol) were added to chlorotrimethylsilane (4.0 g, 36.8 mmol), and the mixture was heated to 50-60° C. and stirred for 10 hr. After the completion of the reaction, the mixture was filtrated. The obtained crystals were diluted with water (4.0 ml), and the mixture was adjusted to pH 4-5 with a 2M aqueous sodium hydroxide solution. After aging under ice-cooling for 1 hr, the mixture was filtrated, and the obtained crystals were dried under reduced pressure at 80° C. to give 2,6-dichloropurine as a white powder (0.35 g, yield 78.3%). The properties of the obtained compound were the same as in Example 1(2).

reactant | 9-Acetyl-2-amino-6-chloropurine | 2.36 mmol, 0.50 g | C(C)(=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C7H6ClN5O
reactant | isoamyl nitrite | 3.54 mmol, 0.42 g | N(=O)OCCC(C)C | C5H11NO2
reactant | chlorotrimethylsilane | 36.8 mmol, 4.0 g | Cl[Si](C)(C)C | C3H9ClSi
catalyst | tetraethylammonium chloride | 0.15 mmol, 0.025 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 2,6-dichloropurine | 0.35 g, yield 78.3% | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
